US06747023B1
4-(2-Nitro-1-propenyl)thiazole
In isopropyl alcohol (100 ml) was dissolved 4-formylthiazole (10.9 g), followed by the addition of potassium fluoride (280 mg) and nitromethane (14.46 g). The resulting mixture was stirred at 60 to 65° C. for 2 hours. The reaction mixture was then stirred overnight at room temperature. The solvent was distilled off under reduced pressure. The residue was dissolved in benzene (50 ml), followed by the addition of acetic anhydride (12.29 g) and 4-(dimethylamino)pyridine (588 g). The resulting mixture was heated under reflux for 2 hours. The solvent was distilled off under reduced pressure. Methylene chloride was added to the residue. The resulting mixture was washed with a saturated aqueous solution of sodium bicarbonate. The organic layer was then dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (hexane : ethyl acetate=1:1), whereby the title compound (8.73 g) was obtained as vividly yellow crystals.

reactant | 4-formylthiazole | 10.9 g | C(=O)C=1N=CSC1 | C4H3NOS
reactant | potassium fluoride | 280 mg | [F-].[K+]
reactant | nitromethane | 14.46 g | [N+](=O)([O-])C | CH3NO2
reactant | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
product | 4-(2-Nitro-1-propenyl)thiazole | [N+](=O)([O-])C(=CC=1N=CSC1)C | C6H6N2O2S
